US08110585B2
2-(5-bromo-2-methyl-2H-indazol-4-yl)cyclopropanecarbonitrile
To a suspension of sodium hydride (19.6 mg, 0.490 mmol) in dimethyl sulfoxide (2 mL) was added trimethylsulfoxonium iodide (117 mg, 0.531 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hr. Thereto was added a solution of (2E)-3-(5-bromo-2-methyl-2H-indazol-4-yl)acrylonitrile (107 mg, 0.408 mmol) in dimethyl sulfoxide (2 mL), and the mixture was stirred for 48 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→100/0) to give the title compound (50.0 mg, yield 44%).

reactant | sodium hydride | 0.490 mmol, 19.6 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 0.531 mmol, 117 mg | [I-].C[S+](=O)(C)C
reactant | (2E)-3-(5-bromo-2-methyl-2H-indazol-4-yl)acrylonitrile | 0.408 mmol, 107 mg | BrC1=C(C2=CN(N=C2C=C1)C)/C=C/C#N | C11H8BrN3
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-bromo-2-methyl-2H-indazol-4-yl)cyclopropanecarbonitrile | 50.0 mg, yield 44% | BrC1=C(C2=CN(N=C2C=C1)C)C1C(C1)C#N | C12H10BrN3
